US04731466
161.5 g (0.87 mole) of chloroacetic acid 2-hydroxyphenyl ester were dissolved in 300 ml of anhydrous dimethylformamide. 20.88 g (0.87 mole) of sodium hydride were added portion by portion with indirect ice refrigeration. After the ending of the addition, heating was carried out for 3 hours at 35° C. followed by hydrolysis in which the reaction mixture was distributed between 600 ml 1N hydrochloric acid and 600 ml diethyl ether. The organic phase was dried with sodium sulfate and was concentrated by evaporation. 117.6 g (90% of the theoretical amount) of raw 3-H-benzo-1,4-dioxin-2-one were obtained. The light-brown oil which was accumulated at first was crystallized in the course of time (melting point 45°-53° C.2).

reactant | chloroacetic acid 2-hydroxyphenyl ester | 0.87 mole, 161.5 g | OC1=C(C=CC=C1)OC(CCl)=O | C8H7ClO3
reactant | sodium hydride | 0.87 mole, 20.88 g | [H-].[Na+]
reactant | hydrochloric acid | 1N, 600 ml | Cl | ClH
reactant | diethyl ether | 600 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 3-H-benzo-1,4-dioxin-2-one | O1C(COC2=C1C=CC=C2)=O | C8H6O3
